US06787541B1
2-Dimethylamino-7-(2-furyl)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (Example 79)
A mixture of palladium(II) acetate (4.1 mg, 18.3 μmol) and triphenylarsine (22.4 mg, 73 μmol) in DMF (0.8 mL) was stirred under an atmosphere of argon at room temperature for 10 min, treated with a solution of 7-bromo-2-dimethylaminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (0.067 g, 0.18 mmol) in DMF (1.1 mL), stirred for 10 min then treated dropwise with 2-tri-n-butylstannylfuran (104 μL, 0.33 mmol). The reaction mixture was stirred at 100° C. for 117 h, cooled, poured into saturated NH4Cl (5 mL), extracted with EtOAc (4×5 mL), the combined organic phase washed with water (5 mL), dried (MgSO4), concentrated in vacuo and the resulting residue purified by chromatography [SiO2; heptane-EtOAc (100:0-95:5 gradient)] to give the title compound (57 mg, 87%) as an orange solid.

reactant | triphenylarsine | 73 μmol, 22.4 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | 7-bromo-2-dimethylaminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 0.18 mmol, 0.067 g | BrC1=CSC2=C1N=C(N=C2C(=O)C=2SC=CC2)N(C)C | C13H10BrN3OS2
reactant | 2-tri-n-butylstannylfuran | 0.33 mmol, 104 μL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.1 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 18.3 μmol, 4.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Dimethylamino-7-(2-furyl)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 57 mg, 87% | CN(C=1N=C(C2=C(N1)C(=CS2)C=2OC=CC2)C(=O)C=2SC=CC2)C | C17H13N3O2S2
